US04180670
0.03 Mole of butyl lithium in hexane as a 15% w/w solution was added dropwise to a stirred, cooled (-10° C.) solution of 5.46 grams (0.03 mole) of 4-benzylideneamino pyridine in 10 milliliters of dry ether. The mixture was allowed to warm to room temperature and then poured onto ice and extracted with methylene chloride. The organic phase was separated and extracted with 2 N hydrochloric acid. The extracts were basified with 2 N sodium hydroxide and extracted into methylene chloride. The resulting methylene chloride solution was dried (MgSO4) and decolourised with charcoal. The solvent was removed and the resulting light oil (5.75 grams) was crystallised and recrystallised from a toluene/petrol (60°-80° C.) mixture affording 2.36 grams of N-([α-phenyl]-n-pentyl)-4-pyridinamine, melting point 118°-8.5°.

reactant | butyl lithium | 0.03 Mole | C(CCC)[Li]
reactant | 4-benzylideneamino pyridine | 0.03 mole, 5.46 grams | C(C1=CC=CC=C1)=NC1=CC=NC=C1 | C12H10N2
solvent | hexane | CCCCCC | C6H14
solvent | ether | 10 milliliters | CCOCC | C4H10O
product | N-([α-phenyl]-n-pentyl)-4-pyridinamine | 2.36 grams | C1(=CC=CC=C1)C(CCCC)NC1=CC=NC=C1 | C16H20N2
